US07183445B2
To a solution of (1-methyl-3,4-di(4-benzyloxy-phenyl)-cyclohex-3-enyl)-methanol (150 mg, 0.306 mmol) in DCM (5.0 mL) at −10° C. was added TiCl4 (0.102 mL, 3.0 eq.) and the reaction mixture stirred at −10° C. for 3 h. The reaction mixture was then diluted with ethyl acetate (20 mL and H2O (10 mL). The organic layer was separated, dried over MgSO4, and purified by SiO2 (50˜100% ethyl acetate/hexane) to yield a lower TLC spot of (1-methyl-3,4-di(4-hydroxy-phenyl)-cyclohex-3-enyl)-methanol.

reactant | (1-methyl-3,4-di(4-benzyloxy-phenyl)-cyclohex-3-enyl)-methanol | 0.306 mmol, 150 mg | CC1(CC(=C(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)CO | C34H34O3
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | 10 mL | O | H2O
catalyst | TiCl4 | 0.102 mL, 3.0 eq. | Cl[Ti](Cl)(Cl)Cl
product | (1-methyl-3,4-di(4-hydroxy-phenyl)-cyclohex-3-enyl)-methanol | CC1(CC(=C(CC1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)CO | C20H22O3
